US06900215B2
3-Bromo-7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine was coupled to 2,4-difluoro-3-(pyridin-3-yl)phenylboronic acid as described in Example 65 to afford 3-[2,4-difluoro-3-(pyridin-3-yl)phenyl]-7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine as a white solid: δH (360 MHz, CDCl3) 1.80 (6H, d, J 22), 7.21-7.29 (2H, m), 7.46 (1H, dd, J 8 and 5), 7.50-7.57 (1H, m), 7.85 (1H, d, J 8), 7.92 (1H, s), 8.31 (1H, dd, J 7 and 3), 8.70 (1H, dd, J 5 and 1), 8.79 (1H, s); m/z (ES+) 369 (M++H).

reactant | 3-Bromo-7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(C)(C)F | C9H9BrFN3
reactant | 2,4-difluoro-3-(pyridin-3-yl)phenylboronic acid | FC1=C(C=CC(=C1C=1C=NC=CC1)F)B(O)O | C11H8BF2NO2
product | 3-[2,4-difluoro-3-(pyridin-3-yl)phenyl]-7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine | FC1=C(C=CC(=C1C=1C=NC=CC1)F)C1=CN=C2N1C=CC(=N2)C(C)(C)F | C20H15F3N4
